US06979696B2
Ethyl acetoacetate (5.5 ml, 43.15 mmol) was added into a solution of (4-methoxy-phenyl)-hydrazine (5.0 g, 28.63 mmol) in glacial acetic acid (500 ml) at room temperature. The mixture was heated at 110° C. for 2 hours, and kept at room temperature for 16 hours. The mixture was concentrated under reduced pressure and the residue was partitioned between dichloromethane and 1 N sodium hydroxide solution. The organic extract was dried (anhydrous sodium sulfate) and concentrated under reduced pressure. The residue was purified by flash column chromatography over silica gel eluting with 2% methanol in dichloromethane to give 5-Methoxy-2-methyl-1H-indole-3-carboxylic acid ethyl ester as a dark solid, (3.18 g, 47%). 1H NMR (CDCl3) δ:1.44 (t, 3H, J=7.1 Hz), 2.70 (s, 3H), 3.87 (s, 1H), 4.39 (q, 2H, J=7.1 Hz), 6.82(dd, 1H, J=8.8 Hz, 2.5 Hz), 7.17 (d, 1H, J=8.8 Hz), 7.63 d, 1H, J=2.5 Hz), 8.38 (bs, 1H). M−H: 232.

reactant | Ethyl acetoacetate | 43.15 mmol, 5.5 ml | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | (4-methoxy-phenyl)-hydrazine | 28.63 mmol, 5.0 g | COC1=CC=C(C=C1)NN | C7H10N2O
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 5-Methoxy-2-methyl-1H-indole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(NC2=CC=C(C=C12)OC)C | C13H15NO3
